2188-09-27 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2188-9-26**] 04:26 PM
 WOUND CULTURE - At [**2188-9-26**] 06:00 PM
   pt had large aspirate of purulent fluid by surgery dr. [**Last Name (STitle) **] tolerated
   proceedure well.
 FEVER - 101.7
F - [**2188-9-26**] 04:00 PM
   Allergies:
   Penicillins
   Rash;
   Sulfur
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2188-9-27**] 12:20 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-9-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-27**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.9
C (100.2
   HR: 86 (79 - 115) bpm
   BP: 115/59(79) {95/47(59) - 142/95(101)} mmHg
   RR: 20 (20 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
    CVP: 23 (23 - 23)mmHg
   Total In:
                                                                  7,144 mL
                                                                    323 mL
   PO:
                                                                  1,690 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  5,454 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    250 mL
   Urine:
                                                                    850 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,294 mL
                                                                     73 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin, Tachypneic, hunched over in bed; appears
   chronically ill
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular:  (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   RLL, Bronchial: RLL)
   Abdominal: Soft, bowel sounds present. Some peri-umbilical tenderness
   with palpation but no rebound or guarding.
   Skin:  Not assessed, Rash: scalp (chronic)
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): place, time, self, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   298 K/uL
   9.0 g/dL
   86 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.9 mEq/L
   13 mg/dL
   107 mEq/L
   135 mEq/L
   28.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2188-9-26**]  03:31 AM
                             [**2188-9-26**]  04:31 PM
                             [**2188-9-27**]  03:22 AM
   WBC
   9.1
   11.5
   Hct
   28.8
   28.7
   Plt
   273
   298
   Cr
   0.6
   0.5
   0.5
   TropT
   0.01
   Glucose
   106
   103
   86
   Other labs: CK / CKMB / Troponin-T:312/5/0.01, ALT / AST:13/29, Alk
   Phos / T Bili:52/0.4, Lactic Acid:0.5 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   87 yo woman w/ advanced Parkinsons, scoliosis, arthritis, who presents
   with fever & falls.  Pt found to be in sepsis w/ GPCs in blood and
   possible early PNA.
   * Sepsis: Pt febrile, tachypneic, and tachycardic at admission; fevers
   still persist. WBC 9 and SBP varies widely b/t 100-140s.  GPCs in blood
   4/4 bottles on admission cx
s.  High suspicion for pneumonia as source
   given lung exam and possible early consolidation on CXR.  However, also
   some concern that chronic, large cyst on back associated w/ surgical
   scar may be infected.  It is red & fluctuant.
   -Continue broad abx w/ vanco & ceftaz
   -Aggressive IVF
   -CT scan of back to further assess cyst & hardware; appreciate ortho
   input
   -Repeat CXR shows possible interval progression of subtle PNA
   - Repeat cx
   * Elevated CK with lrg blood on UA without RBC:  early rhabdo in
   setting of falls.  Trop not signif elevated.
   - Continue aggressive IVF; CEs trending down
   * Hyponatremia: suspect second to hypovolemia.  Have treated with IVFs
   and has improved.
   *  Falls-unclear how falling as patient is not ambulatory;  however, it
   sounds as if she may slip out of chairs.  D/w family.
   * Anemia: baseline low 30s.  Currently 28 (after IVF)
   - Con
t to monitor, guaiac stools
   *. Parkinson's disease: advanced.  Con
t outpt meds
note pharmacy does
   not have extended release Ropinerol so pt getting short acting while in
   hosp
   *  PUD: con
t PPI
   * Hypertension
   * Depression: con
t home meds
   * Osteoporosis: need to clarify day of Fosamax dosing
   Contact: [**Name (NI) **] [**Telephone/Fax (1) 4329**] [**Name2 (NI) **]r home [**Telephone/Fax (1) 4330**]
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-9-25**] 07:00 PM
   20 Gauge - [**2188-9-26**] 05:05 AM
   Prophylaxis:
   DVT: heparin subq
   Stress ulcer: PO diet
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2188-09-28 08:31:00 Physician Resident Progress Note
24 Hour Events:
   Pt went to OR this AM for wash-out & exploration of back abscess.
   Abscess reportedly extends to spinal hardware.
   Cx
   Allergies:
   Penicillins
   Rash;
   Sulfur
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2188-9-27**] 12:20 AM
   Vancomycin - [**2188-9-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-9-28**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-28**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 101 (93 - 113) bpm
   BP: 154/75(93) {105/48(64) - 163/86(99)} mmHg
   RR: 29 (23 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59 kg (admission): 53.6 kg
   Height: 57 Inch
             Total In:
                                                                  1,950 mL
                                                                    260 mL
   PO:
                                                                  1,410 mL
             TF:
   IVF:
                                                                    540 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    305 mL
   Urine:
                                                                    725 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,225 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   333 K/uL
   8.9 g/dL
   87 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.9 mEq/L
   14 mg/dL
   106 mEq/L
   135 mEq/L
   28.3 %
   14.9 K/uL
        [image002.jpg]
                             [**2188-9-26**]  03:31 AM
                             [**2188-9-26**]  04:31 PM
                             [**2188-9-27**]  03:22 AM
                             [**2188-9-28**]  03:11 AM
   WBC
   9.1
   11.5
   14.9
   Hct
   28.8
   28.7
   28.3
   Plt
   273
   298
   333
   Cr
   0.6
   0.5
   0.5
   0.5
   TropT
   0.01
   Glucose
   106
   103
   86
   87
   Other labs: PT / PTT / INR:13.0/26.6/1.1, CK / CKMB /
   Troponin-T:312/5/0.01, ALT / AST:13/29, Alk Phos / T Bili:52/0.4,
   Lactic Acid:0.5 mmol/L, Albumin:2.4 g/dL, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   87 yo woman w/ advanced Parkinsons, scoliosis, arthritis, who presents
   with fever and falls.  Pt found to be in sepsis w/ GPCs in blood and
   possible early PNA; probable source of infection is large abscess on
   pt
s back involving previously implanted hardware.
   * Sepsis: Pt febrile, tachypneic, and tachycardic at admission; fevers
   still persist. WBC 9 and SBP varies widely b/t 100-140s, however
   overall appears to have stabilized. GPCs in blood 4/4 bottles on
   admission cx
   -Narrow abx coverage to vanco
   -IVF as needed to maintain BP and UOP
   -appreciate ortho and palliative care input
   -Repeat cx
   * Elevated CK with lrg blood on UA without RBC:  early rhabdo in
   setting of falls.  Trop not signif elevated.
   - Continue IVF as above; CEs trending down
   * Hyponatremia: suspect second to hypovolemia.  Have treated with IVFs
   and has improved.
   * Falls-unclear how falling as patient is not ambulatory;  however, it
   sounds as if she may slip out of chairs.  D/w family.
   * Anemia: baseline low 30s.  Currently 28 (after IVF)
   - Con
t to monitor, guaiac stools
   * Parkinson's disease: advanced.  Con
t outpt meds
note pharmacy does
   not have extended release Ropinerol so pt getting short acting while in
   hosp
   *  PUD: con
t PPI
   * Hypertension
   * Depression: con
t home meds
   * Osteoporosis: need to clarify day of Fosamax dosing
   Contact: [**Name (NI) **] [**Telephone/Fax (1) 4329**] [**Name2 (NI) **]r home [**Telephone/Fax (1) 4330**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-9-25**] 07:00 PM
   20 Gauge - [**2188-9-26**] 05:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2188-09-29 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 POD #1 s/p wash out back abscess
   - Confused & agitated overnight.  Given zyprexa w/ effect.  Oxycodone
   held.
   Allergies:
   Penicillins
   Rash;
   Sulfur
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2188-9-27**] 12:20 AM
   Vancomycin - [**2188-9-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-9-28**] 08:09 PM
   Furosemide (Lasix) - [**2188-9-28**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies SOB, states back pain improved since OR
   Flowsheet Data as of  [**2188-9-29**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 82 (79 - 110) bpm
   BP: 106/43(59) {98/41(54) - 154/75(93)} mmHg
   RR: 18 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59 kg (admission): 53.6 kg
   Height: 57 Inch
             Total In:
                                                                  2,008 mL
                                                                    444 mL
   PO:
                                                                    860 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,148 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    310 mL
   Urine:
                                                                  1,530 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    408 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin, severely kyphotic, torticollis to right.
   Appears more comfortable than prior
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular:  (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   RLL, Bronchial: RLL) Slight wheeze
   Abdominal: Soft, bowel sounds present.
   Skin:  Not assessed, Rash: scalp (chronic)
   Neurologic: Alert, oriented x 3.  Follows commands.
   Labs / Radiology
   403 K/uL
   8.8 g/dL
   118 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   14 mg/dL
   106 mEq/L
   136 mEq/L
   28.0 %
   16.1 K/uL
        [image002.jpg]
                             [**2188-9-26**]  03:31 AM
                             [**2188-9-26**]  04:31 PM
                             [**2188-9-27**]  03:22 AM
                             [**2188-9-28**]  03:11 AM
                             [**2188-9-29**]  03:12 AM
   WBC
   9.1
   11.5
   14.9
   16.1
   Hct
   28.8
   28.7
   28.3
   28.0
   Plt
   273
   298
   333
   403
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   TropT
   0.01
   Glucose
   106
   103
   86
   87
   118
   Other labs: PT / PTT / INR:13.0/26.6/1.1, CK / CKMB /
   Troponin-T:312/5/0.01, ALT / AST:13/29, Alk Phos / T Bili:52/0.4,
   Lactic Acid:0.5 mmol/L, Albumin:2.4 g/dL, Ca++:7.9 mg/dL, Mg++:1.7
   mg/dL, PO4:1.7 mg/dL
   Micro:
   Blood cx [**7-26**], [**7-27**], [**7-28**]: MRSA
[**7-30**] pending
   Urine Cx [**7-26**], [**7-28**] negative
   C diff [**7-27**] negative
   Abscess cx from drainage: MRSA
   Wound swab intra-op: GPCs on gram stain, cx pending
   Assessment and Plan
   87 yo woman w/ advanced Parkinsons, scoliosis, arthritis, who presents
   MRSA sepsis.  Pt w/ high grade Bacteremia.
   * Sepsis: from MRSA Bacteremia w/ suspected source of infected seroma
   extends to spinal hardware.  Pt currently HD s/p washout yesterday.
   Persistent bacteremia raises concern for endovascular source of
   infection, unclear if this would change management however.
   -Continue vanco, renally dosed at Q24, check trough to ensure
   therapeutic
   -Continue to follow daily surveillance cultures, PICC placement when
   neg x 48 hours.
   -IVF as needed to maintain BP and UOP
   -appreciate ortho and palliative care input
   -TTE to look for vegetation, none seen.  Would not to TEE to look
   further, this is a woman who will be getting a very prolonged course of
   antibiotics regardless of documented endocarditis due to presence of
   infected hardware.
   -ID c/s to discuss duration of tx and whether switching to linezolid
   would be prudent.  ? minimum 6-8 weeks tx with possible suppressive abx
   for life.
   *Mental status changes: noted following OR/anesthesia.  Pt mildly
   disoriented.  Suspect related to anesthesia. Got zyprexa last night
   with good effect, more oriented today. Continue to monitor closely.
   * Anemia: baseline low 30s.  Currently stable at 28.
   - Con
t to monitor, guaiac stools
   * Parkinson's disease: advanced.  Con
t outpt meds
note pharmacy does
   not have extended release Ropinerol so pt getting short acting while in
   hosp
   *  PUD: con
t PPI
   * Depression: con
t home meds
   * Osteoporosis: need to clarify day of Fosamax dosing
   Contact: [**Name (NI) **] [**Telephone/Fax (1) 4329**] [**Name2 (NI) **]r home [**Telephone/Fax (1) 4330**]
   ICU Care
   Nutrition: PO
   Glycemic Control:  Well controlled
   Lines:
   18 Gauge - [**2188-9-25**] 07:00 PM
   20 Gauge - [**2188-9-26**] 05:05 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:
   Communication:
   Code status: DNR / DNI
   Disposition: Call out to floor

2188-09-29 15:28:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yr old with Parkinsons and infected [**Location (un) **] rods with MRSA s/p I
   and D in OR
   24 Hour Events:
 OR RECEIVED - At [**2188-9-28**] 10:31 AM
   Tolerated OR well, hemodynamics have been stable
   Persistently + blood cultires through [**9-27**] for MRSA and woudn with MRSA
   Plan for TTE today
   Allergies:
   Penicillins
   Rash;
   Sulfur
   Rash;
   Last dose of Antibiotics:
   Ceftazidime - [**2188-9-27**] 12:20 AM
   Vancomycin - [**2188-9-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2188-9-28**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2188-9-29**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-29**] 03:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 88 (77 - 110) bpm
   BP: 138/64(82) {98/41(54) - 157/103(99)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59 kg (admission): 53.6 kg
   Height: 57 Inch
             Total In:
                                                                  2,008 mL
                                                                  1,044 mL
   PO:
                                                                    860 mL
                                                                    570 mL
   TF:
   IVF:
                                                                  1,148 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    905 mL
   Urine:
                                                                  1,530 mL
                                                                    905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    408 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (No(t) PMI), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Rash: on forehead w/ excoriations, back with drain
   in place (serosang), dressing C/D/I
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): slef, hospital, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   403 K/uL
   118 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   14 mg/dL
   106 mEq/L
   136 mEq/L
   28.0 %
   16.1 K/uL
        [image002.jpg]
                             [**2188-9-26**]  03:31 AM
                             [**2188-9-26**]  04:31 PM
                             [**2188-9-27**]  03:22 AM
                             [**2188-9-28**]  03:11 AM
                             [**2188-9-29**]  03:12 AM
   WBC
   9.1
   11.5
   14.9
   16.1
   Hct
   28.8
   28.7
   28.3
   28.0
   Plt
   273
   298
   333
   403
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   TropT
   0.01
   Glucose
   106
   103
   86
   87
   118
   Other labs: PT / PTT / INR:13.0/26.6/1.1, CK / CKMB /
   Troponin-T:312/5/0.01, ALT / AST:13/29, Alk Phos / T Bili:52/0.4,
   Lactic Acid:0.5 mmol/L, Albumin:2.4 g/dL, Ca++:7.9 mg/dL, Mg++:1.7
   mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   1) Back Abscess: s/p Wash Out in OR yesterday which she tolerated well,
   she needs serial blood cx, TTE today to look for vegetations.
   2)CV:Follow volume status maintain MAPS >65.
   3) Delirium: clearing with sleep, and as she recovers from post op
   4)FEN: PO as tolerated.
   5)Code:DNR/DNI - pt and daughter up to date.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-9-25**] 07:00 PM
   20 Gauge - [**2188-9-26**] 05:05 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40 minutes